US08283354B2
To a solution of 2-(4-chloroquinazolin-2-yl)phenol (2.0 g, 7.8 mmol) in CH2Cl2 at 0° C. was rapidly added a solution of piperazine (2.01 g, 23.4 mmol) and triethylamine (2.17 mL, 15.6 mmol) in 10 mL CH2Cl2. The reaction was warmed to room temperature and stirred for 5 hours. The reaction was quenched with 25 mL of water and extracted with (3×15) mL of CH2Cl2. The organic layer was dried over Na2SO4, filtered, and concentrated to afford 2-(4-(piperazin-1-yl)quinazolin-2-yl)phenol (1.98 g, 83%). LC/MS: m/z 307.3 (M+H)+ at 1.47 min (10%-99% CH3CN (0.035% TFA)H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.43 (d, J=10.1 Hz, 1H), 8.04 (d, J=8.3 Hz, 1H), 7.85 (m, 2H), 7.53 (m, 1H), 7.38 (m, 1H), 6.95 (m, 2H), 3.85 (t, J=4.8 Hz, 4H), 2.94 (t, J=4.8 Hz, 4H).

reactant | 2-(4-chloroquinazolin-2-yl)phenol | 7.8 mmol, 2.0 g | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C14H9ClN2O
reactant | piperazine | 23.4 mmol, 2.01 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 15.6 mmol, 2.17 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(piperazin-1-yl)quinazolin-2-yl)phenol | 1.98 g, 83% | N1(CCNCC1)C1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C18H18N4O
